US05113007
Preparation of 2-bromo-1-trimethylsiloxybuta-1,3-diene
Furthermore, 2.98 g (20 mmoles) of 2-bromobut-2-enal and 3 g (30 mmoles) of triethylamine are introduced into a 250 ml container. At room temperature, in a nitrogen atmosphere with agitation, there is added 1.63 g (30 mmoles) of chlorotrimethylsilane followed, drop by drop, by the solution of sodium iodide in acetonitrile which was previously prepared. After reaction for 90 minutes, 60 cc of anhydrous petroleum ether (petroleum ether 40-60) are added and agitation is effected for 30 minutes. The precipitate which forms is filtered off under a nitrogen atmosphere and then washed twice with 30 ml of anhydrous petroleum ether. The upper phase of the filtrate (petroleum ether) is collected and the lower phase (acetonitrile) extracted 3 times with, in each case, 30 ml of petroleum ether. The petroleum ether fractions are collected and 5 g of anhydrous magnesium sulfate added thereto. Filtration is effected over fritted glass and the solvent eliminated by vacuum distillation (rotary evaporator) in an inert atmosphere. The residue obtained is diluted in 80 cc of anhydrous ethyl ether; the precipitate is filtered and the solvent evaporated under an atmosphere of nitrogen. 3.76 g of product are obtained, representing a yield of 85%. Purity (GC) of the product obtained is 98% and its structure is confirmed by nuclear magnetic resonance and mass spectrometry.

reactant | 2-bromobut-2-enal | 20 mmoles, 2.98 g | BrC(C=O)=CC | C4H5BrO
reactant | triethylamine | 30 mmoles, 3 g | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 30 mmoles, 1.63 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | sodium iodide | [I-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ethyl ether | 80 cc | C(C)OCC | C4H10O
product | 2-bromo-1-trimethylsiloxybuta-1,3-diene | 3.76 g, yield of 85% | BrC(=CO[Si](C)(C)C)C=C | C7H13BrOSi
